US20010037037A1
51.6 g (0.25 mol) of α-hydroxyimino-3,4-dimethoxybenzyl cyanide and 300 ml of triethylamine are dissolved in 300 ml of THF and cooled in an ice-bath to 0-5° C. There is added dropwise to that solution in the course of one hour a solution of 52.4 g (0.275 mol) of para-toluenesulfonic acid chloride in 65 ml of THF. After 3 hours the ice-bath is removed and the reaction mixture is then stirred overnight at room temperature. Then 150 ml of CH2Cl2 are added, the ammonium salts that have precipitated are filtered off and the filtrate is freed of excess triethylamine by repeated washing with water and dilute HCl. After drying over magnesium sulfate, the solvent is distilled off in a rotary evaporator and the residue that remains is recrystallised from toluene. 80.8 g (90%) of α-(4-methylphenylsulfonyloxyimino)-3,4-dimethoxybenzyl cyanide are obtained in the form of yellowish crystals having a melting point of 161-163° C. The 1H-NMR spectrum of the compound shows that it is a pure stereoisomer. The UV spectrum (acetonitrile) of the substance shows a broad absorption band with a maximum at 350 nm (ε=11340) that extends to 435 nm.

reactant | α-hydroxyimino-3,4-dimethoxybenzyl cyanide | 0.25 mol, 51.6 g | ON=C(C1=CC(=C(C=C1)OC)OC)C#N | C10H10N2O3
reactant | triethylamine | 300 ml | C(C)N(CC)CC | C6H15N
reactant | para-toluenesulfonic acid chloride | 0.275 mol, 52.4 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 65 ml | C1CCOC1 | C4H8O
product | α-(4-methylphenylsulfonyloxyimino)-3,4-dimethoxybenzyl cyanide | 80.8 g, 90% | CC1=CC=C(C=C1)S(=O)(=O)ON=C(C1=CC(=C(C=C1)OC)OC)C#N | C17H16N2O5S
